US08071600B2
2-oxazolidinone (0.38 g, 4.36 mmol), dipalladium tris(dibenzylideneacetone) (0.17 g, 0.18 mmol), 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (XANTPHOS)(0.32 g, 0.55 mmol) and cesium carbonate (1.66 g, 5.1 mmol) were added to a dioxane solution (20 ml) of 5-bromo-3-methoxy-2-methoxymethoxybenzaldehyde (1.0 g, 3.6 mmol) and the mixture was stirred at 100° C. for 24 hours under an argon atmosphere. The reaction solution was cooled to room temperature and ethyl acetate was added thereto. The mixture was filtrated by cerite. The filtrate was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (n-hexane:ethyl acetate 4:1→1:1). The purified product was concentrated under reduced pressure. Ethyl acetate and diisopropyl ether were added to the residue. The insoluble matter thus purified was obtained by filtration and dried to obtain 3-methoxy-2-methoxymethoxy-5-(2-oxo-oxazolidin-3-yl)benzaldehyde (0.5 g) as white powder.

reactant | 2-oxazolidinone | 4.36 mmol, 0.38 g | O1C(NCC1)=O | C3H5NO2
reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.55 mmol, 0.32 g | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | cesium carbonate | 5.1 mmol, 1.66 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-bromo-3-methoxy-2-methoxymethoxybenzaldehyde | 3.6 mmol, 1.0 g | BrC=1C=C(C(=C(C=O)C1)OCOC)OC | C10H11BrO4
catalyst | dipalladium tris(dibenzylideneacetone) | 0.18 mmol, 0.17 g | C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 3-methoxy-2-methoxymethoxy-5-(2-oxo-oxazolidin-3-yl)benzaldehyde | 0.5 g | COC=1C(=C(C=O)C=C(C1)N1C(OCC1)=O)OCOC | C13H15NO6
